US04675397
In a mixture of 17 ml of methylene chloride and 6 ml of N,N-dimethylformamide is dissolved 172 mg of cis-3-[2-(2-chloroacetamido-4-thiazolyl)-2-methoxyiminoacetamido]-4-hydroxymethyl-2-oxoazetidine (syn-isomer), followed by addition of 0.2 ml of pyridine. While the mixture is cooled with ice-sodium chloride mixture and stirred, 0.12 ml of chloroacetyl chloride is added dropwise. The mixture is stirred under cooling for 30 minutes and the solvent is distilled off. To the residue are added aqueous sodium chloride and ethyl acetate, and the mixture is shaken well. The organic layer is separated and washed with aqueous sodium chloride and dried over anhydrous sodium sulfate. The solvent is then distilled off and the residue is crystallized from ether. Recrystallization from chlorform-methanol gives colorless crystals of cis-3-[2-(2-chloroacetamido-4-thiazolyl)-2-methoxyiminoacetamido]-4-chloroacetoxymethyl-2-oxoazetidine (syn-isomer), m.p. 225°-227° C. (decomp.).

reactant | cis-3-[2-(2-chloroacetamido-4-thiazolyl)-2-methoxyiminoacetamido]-4-hydroxymethyl-2-oxoazetidine | 172 mg | ClCC(=O)NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N[C@@H]1CO)=O)=NOC | C12H14ClN5O5S
reactant | pyridine | 0.2 ml | N1=CC=CC=C1 | C5H5N
reactant | chloroacetyl chloride | 0.12 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | methylene chloride | 17 ml | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | cis-3-[2-(2-chloroacetamido-4-thiazolyl)-2-methoxyiminoacetamido]-4-chloroacetoxymethyl-2-oxoazetidine | ClCC(=O)NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N[C@@H]1COC(CCl)=O)=O)=NOC | C14H15Cl2N5O6S
